US08053458B2
2-Cyclohexyl-5,5′-dimethyl-2′-phenyl-2H,2′H-[3,4′]bipyrazolyl-3′-ol
Prepare the title compound from 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione and cyclohexylhydrazine hydrochloride according to the procedure of Example 28.

reactant | 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione | C1(=CC=CC=C1)N1N=C(C(C1=O)C(CC(C)=O)=O)C | C14H14N2O3
reactant | cyclohexylhydrazine hydrochloride | Cl.C1(CCCCC1)NN
product | 2-Cyclohexyl-5,5′-dimethyl-2′-phenyl-2H,2′H-[3,4′]bipyrazolyl-3′-ol | C1(CCCCC1)N1N=C(C=C1C1=C(N(N=C1C)C1=CC=CC=C1)O)C | C20H24N4O
